US04413127
The process according to claim 4 where 2-ethoxy-1-(4-pyridinyl)ethenyl methyl ketone is refluxed with malononitrile in ethanol to produce 1,2-dihydro-6-methyl-2-oxo-5-(4-pyridinyl)nicotinonitrile.

reactant | 2-ethoxy-1-(4-pyridinyl)ethenyl methyl ketone | CC(=O)C(=COCC)C1=CC=NC=C1 | C11H13NO2
reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | ethanol | C(C)O | C2H6O
product | 1,2-dihydro-6-methyl-2-oxo-5-(4-pyridinyl)nicotinonitrile | CC=1NC(C(C#N)=CC1C1=CC=NC=C1)=O | C12H9N3O
